### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Trigonometric/Angle): angles adding to 0 mod π

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas that if two angles with the same nonzero sign add to 0 mod π, then the absolute values of the corresponding real numbers obtained with `toReal` (unoriented angles) add to π.

---

Feel free to golf.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 1]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
     ((2 : ℤ) • θ).sign = θ.sign ↔ θ = π ∨ |θ.toReal| < π / 2 := by
   rw [two_zsmul, ← two_nsmul, sign_two_nsmul_eq_sign_iff]
 
+lemma abs_toReal_add_abs_toReal_eq_pi_of_two_nsmul_add_eq_zero_of_sign_eq {θ ψ : Angle}
+    (h : (2 : ℕ) • (θ + ψ) = 0) (hs : θ.sign = ψ.sign) (h0 : θ.sign ≠ 0) :
+    |θ.toReal| + |ψ.toReal| = π := by
+  rw [two_nsmul_eq_zero_iff] at h
+  rcases h with h | h
+  · rw [add_eq_zero_iff_eq_neg] at h
+    simp_all
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
  rcases two_nsmul_eq_zero_iff.mp h with h | h
  · simp_all [add_eq_zero_iff_eq_neg.mp h]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 2]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+  rw [← coe_toReal θ, ← coe_toReal ψ, ← coe_add] at h
+  suffices |θ.toReal + ψ.toReal| = π by
+    rw [← this, eq_comm, abs_add_eq_add_abs_iff]
+    have h0' : ψ.sign ≠ 0 := hs ▸ h0
+    have hθ := sign_toReal (sign_ne_zero_iff.1 h0).2
+    have hψ := sign_toReal (sign_ne_zero_iff.1 h0').2
+    have hθs : θ.sign = -1 ∨ θ.sign = 1 := by
+      simpa [h0] using θ.sign.trichotomy
+    rcases hθs with hθs | hθs
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
    have hθ := sign_toReal (sign_ne_zero_iff.1 h0).2
    have hψ := sign_toReal (sign_ne_zero_iff.1 (hs ▸ h0)).2
    obtain hθs | hθs := (by simpa [h0] using θ.sign.trichotomy : θ.sign = -1 ∨ θ.sign = 1)
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 3]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    · rw [hθs, eq_comm, ← toReal_neg_iff_sign_neg] at hs
+      rw [← toReal_neg_iff_sign_neg] at hθs
+      exact .inr ⟨hθs.le, hs.le⟩
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
      exact .inr ⟨(toReal_neg_iff_sign_neg.mpr hθs).le, hs.le⟩
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 4]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    · simp [toReal_nonneg_iff_sign_nonneg, hs.symm, hθs]
+  rw [abs_eq pi_nonneg]
+  rw [angle_eq_iff_two_pi_dvd_sub] at h
+  rcases h with ⟨k, hk⟩
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
  rcases angle_eq_iff_two_pi_dvd_sub.mp h with ⟨k, hk⟩
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 5]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+  rw [sub_eq_iff_eq_add] at hk
+  have hu : θ.toReal + ψ.toReal ≤ 2 * π := by linarith [toReal_le_pi θ, toReal_le_pi ψ]
+  have hn : -2 * π < θ.toReal + ψ.toReal := by linarith [neg_pi_lt_toReal θ, neg_pi_lt_toReal ψ]
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean:907]:
```suggestion
  have hu : θ.toReal + ψ.toReal ≤ 2 * π := by linarith [toReal_le_pi θ, toReal_le_pi ψ]
  have hn : -2 * π < θ.toReal + ψ.toReal := by linarith [neg_pi_lt_toReal θ, neg_pi_lt_toReal ψ]
  rw [hk] at hu hn
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 6]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+  have hk0 : k ≤ 0 := by
+    rw [hk] at hu
+    by_contra hk1
+    have hk1' : 1 ≤ k := by cutsat
+    grw [← hk1'] at hu
+    simp only [Int.cast_one, mul_one, add_le_iff_nonpos_right] at hu
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
    by_contra hk1
    grw [← show 1 ≤ k by cutsat] at hu
    simp only [Int.cast_one] at hu
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 7]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    linarith [pi_pos]
+  have hkn1 : -1 ≤ k := by
+    rw [hk] at hn
+    by_contra hkn2
+    have hkn2' : k ≤ -2 := by cutsat
+    grw [hkn2'] at hn
+    simp only [neg_mul, Int.reduceNeg, Int.cast_neg, Int.cast_ofNat, mul_neg, lt_neg_add_iff_add_lt,
+      add_neg_lt_iff_lt_add] at hn
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
    by_contra hkn2
    grw [show k ≤ -2 by cutsat] at hn
    simp only [Int.cast_neg, Int.cast_ofNat] at hn
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 8]
```diff
@@ -853,6 +853,56 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    linarith [pi_pos]
+  have hkn10 : k = -1 ∨ k = 0 := by cutsat
+  rcases hkn10 with rfl | rfl <;> grind
```
Comment (qawbecrdtey) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
  obtain rfl | rfl := (by cutsat : k = -1 ∨ k = 0) <;> grind
```

**Review by qawbecrdtey — COMMENTED** [review]
Here is my attempt for golfing `abs_toReal_add_abs_toReal_eq_pi_of_two_nsmul_add_eq_zero_of_sign_eq`.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 9]
```diff
@@ -886,6 +886,44 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    (h : (2 : ℕ) • (θ + ψ) = 0) (hs : θ.sign = ψ.sign) (h0 : θ.sign ≠ 0) :
+    |θ.toReal| + |ψ.toReal| = π := by
+  rcases two_nsmul_eq_zero_iff.mp h with h | h
+  · simp_all [add_eq_zero_iff_eq_neg.mp h]
+  rw [← coe_toReal θ, ← coe_toReal ψ, ← coe_add] at h
+  suffices |θ.toReal + ψ.toReal| = π by
+    rw [← this, eq_comm, abs_add_eq_add_abs_iff]
+    have hθ := sign_toReal (sign_ne_zero_iff.1 h0).2
+    have hψ := sign_toReal (sign_ne_zero_iff.1 (hs ▸ h0)).2
+    obtain hθs | hθs := (by simpa [h0] using θ.sign.trichotomy : θ.sign = -1 ∨ θ.sign = 1)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]:
```suggestion
    obtain hθs | hθs : θ.sign = -1 ∨ θ.sign = 1 := by simpa [h0] using θ.sign.trichotomy
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 10]
```diff
@@ -886,6 +886,44 @@ theorem sign_two_zsmul_eq_sign_iff {θ : Angle} :
...
+    by_contra hk1
+    grw [← show 1 ≤ k by cutsat] at hu
+    simp only [Int.cast_one] at hu
+    linarith [pi_pos]
+  have hkn1 : -1 ≤ k := by
+    by_contra hkn2
+    grw [show k ≤ -2 by cutsat] at hn
+    simp only [Int.cast_neg, Int.cast_ofNat] at hn
+    linarith [pi_pos]
+  obtain rfl | rfl := (by cutsat : k = -1 ∨ k = 0) <;> grind
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean]: I think
```suggestion
  obtain rfl | rfl : k = -1 ∨ k = 0 := (by cutsat) <;> grind
```
is still better

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

Thanks

**Review by j-loreaux — COMMENTED** [review]
It's depressing to me that after thinking about this for a bit, I didn't come up with a significantly simpler argument.

bors merge
